US04024134
A stirred suspension of diphenylmethyl 3-acetylthiomethyl-7β-formamidoceph-3-em-4-carboxylate (0.505 g) in methanol: ether (1:1, 3 ml) at 0° was treated over 10 min. with phosphorous oxychloride (0.468 g). The ice bath was removed and stirring continued for a further 20 min, when a clear solution resulted. The reaction was cooled to 0°, and a white crystalline precipitate appeared. Ether (15 ml) was added and the precipitate filtered off, washed with ether and dried in vacuo to give diphenylmethyl 3-acetylthiomethyl-7β-aminoceph-3-em-4-carboxylate hydrochloride (0.456 g, 89%) as white microcrystals; m.p. 155 -160° (d) [α]D - 91° (c 0.83 in DMSO), λmax (EtOH) 268 nm (ε 8,700)νmax. (Nujol) 1770 (β-lactam), 1720 (CO2R), 1702 cm.-1 (SCOCH3), τ (DMSO-d6) values include 2.60 (m; Ph), 3.02 (s, CHPh2), 7.66 (s, SCOCH3).

reactant | diphenylmethyl 3-acetylthiomethyl-7β-formamidoceph-3-em-4-carboxylate | 0.505 g | C(C)(=O)SCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC=O)=O | C24H22N2O5S2
reactant | phosphorous oxychloride | 0.468 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Ether | 15 ml | CCOCC | C4H10O
solvent | methanol ether | 3 ml | CO.CCOCC
product | diphenylmethyl 3-acetylthiomethyl-7β-aminoceph-3-em-4-carboxylate hydrochloride | 0.456 g, 89% | Cl.C(C)(=O)SCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2N)=O | InChI=1S/C23H22N2O4S2.ClH/c1-14(26)30-12-17-13-31-22-18(24)21(27)25(22)19(17)23(28)29-20(15-8-4-2-5-9-15)16-10-6-3-7-11-16;/h2-11,18,20,22H,12-13,24H2,1H3;1H/t18-,22-;/m1./s1
